US08183240B2
Step 1: N-(2-aminoethyl)-4-cyano-3-(2,4-dichlorophenyl)-5-morpholin-4-ylthiophene-2-carboxamide
To a solution of 4-cyano-3-(2,4-dichlorophenyl)-5-morpholin-4-ylthiophene-2-carboxylic acid (3.10 g, 8.2 mmol) and N-(2-aminoethyl)(tert-butoxy)carboxamide (1.98 gr, 12.3 mmol) in methylene chloride (60 mL) was added N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (3.15 gr, 16.4 mmol) and 1-hydroxybenzotriazole (2.22 gr, 16.4 mmol) at room temperature. The solution was allowed to stir overnight. The reaction was diluted with methylene chloride and water. The layers were separated and the organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography to give the intermediate boc-protected product as a yellow solid. The material was dissolved in dioxane (4 mL) and a solution 4N HCl in dioxane (9 mL) was added. The solution was stirred at room temperature for 30 minutes. The solvents were evaporated and the residue was dried under vacuum overnight. The product was converted to the free base by suspension in methylene chloride followed by addition of sodium carbonate solution. The layers were separated and the aqueous layer was extracted twice with methylene chloride. The combined organic extracts were dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to afford the product as a free base (2.55 gr, 67%). LCMS: (FA) ES+ 463. 1H NMR (400 MHz, d1-chloroform) δ: 7.59-7.55 (m, 1H), 7.43-7.30 (m, 2H), 3.90-3.82 (m, 4H), 3.64-3.57 (m, 4H), 3.53-2.85 (m, 4H).

reactant | 4-cyano-3-(2,4-dichlorophenyl)-5-morpholin-4-ylthiophene-2-carboxylic acid | 8.2 mmol, 3.10 g | C(#N)C=1C(=C(SC1N1CCOCC1)C(=O)O)C1=C(C=C(C=C1)Cl)Cl | C16H12Cl2N2O3S
reactant | N-(2-aminoethyl)(tert-butoxy)carboxamide | 12.3 mmol, 1.98 gr | NCCNC(=O)OC(C)(C)C | C7H16N2O2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 16.4 mmol, 3.15 gr | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 16.4 mmol, 2.22 gr | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | HCl | Cl | ClH
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 9 mL | O1CCOCC1 | C4H8O2
product | N-(2-aminoethyl)-4-cyano-3-(2,4-dichlorophenyl)-5-morpholin-4-ylthiophene-2-carboxamide | 2.55 gr, 67% | NCCNC(=O)C=1SC(=C(C1C1=C(C=C(C=C1)Cl)Cl)C#N)N1CCOCC1 | C18H18Cl2N4O2S
